US05849735
N-[4-(Pyrido[2,3-b][1,5]benzoxazepin-6(5H)-ylcarbonyl)-3-chlorophenyl][1,1'-biphenyl]-2-carboxamide
A mixture of 0.198 g of 5,6-dihydropyrido[2,3-b][1,5]benzoxazepine, 0.155 g of N,N-diisopropylethylamine and 0.444 g of 4-[([1,1-biphenyl]-2-carbonyl)amino]-2-chlorobenzoyl chloride in 12 ml of dichloromethane is stirred at room temperature for 2.5 hours. The mixture is poured into water and extracted with dichloromethane. The extract is washed with 2N Na2CO3, H2O, brine and dried (Na2 SO4). The solution is passed through a thin pad of hydrous magnesium silicate. The filter pad is washed with 50 ml of hexane-ethyl acetate (1:2) and the filtrate concentrated to dryness.

reactant | 5,6-dihydropyrido[2,3-b][1,5]benzoxazepine | 0.198 g | N1=CC=CC2=C1OC1=C(NC2)C=CC=C1 | C12H10N2O
reactant | N,N-diisopropylethylamine | 0.155 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-[([1,1-biphenyl]-2-carbonyl)amino]-2-chlorobenzoyl chloride | 0.444 g | C=1(C(=CC=CC1)C(=O)NC1=CC(=C(C(=O)Cl)C=C1)Cl)C1=CC=CC=C1 | C20H13Cl2NO2
reactant | water | O | H2O
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | N-[4-(Pyrido[2,3-b][1,5]benzoxazepin-6(5H)-ylcarbonyl)-3-chlorophenyl][1,1'-biphenyl]-2-carboxamide | N1=CC=CC2=C1OC1=C(N(C2)C(=O)C2=C(C=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)Cl)C=CC=C1 | C32H22ClN3O3
